US07307099B2
5-fluoro-1-(toluene-4-sulfonyl)-1H-indole
The title compound was prepared from toluene-4-sulfonyl chloride and 5-fluoro-1H-indole, according to Method A, described above. Yield 100%; mp 106-108° C.; 1H NMR (CDCl3) δ 8.13-8.19 (dd, J=4, 8 Hz, 1H), 7.96 (d, J=8 Hz, 2H), 7.82 (d, J=4 Hz, 1H), 7.40-7.48 (m, 3H), 7.25-77.38 (m,1H), 6.83 (d, J=4 Hz, 1H), 2.55 (s, 3H); 13C NMR (CDCl3) δ 161.9, 158.1, 145.6, 135.4, 132.2, 132.1, 131.6, 130.3, 128.5, 127.2, 115.0, 114.9, 113.2, 112.8, 109.4, 109.3, 107.5, 107.1, 21.9.

reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 5-fluoro-1H-indole | FC=1C=C2C=CNC2=CC1 | C8H6FN
product | 5-fluoro-1-(toluene-4-sulfonyl)-1H-indole | Yield 100% | FC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C15H12FNO2S
